Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
AMS, Intentional Overdose
 
Major Surgical or Invasive Procedure:
Intubation ___, Extubation ___
 
History of Present Illness:
Ms. ___ is a ___ year old woman with history of depression who 
presented after a Seroquel (quetiapine) overdose. She was last 
seen well at about 8:30 pm on ___, had a normal conversation 
with her daughter before the daughter went to bed. At 10 pm the 
daughter heard stumbling, and the patient was holding onto the 
doorway, asked the daughter to call ___. The patient has been 
stressed out at work, is a ___ at ___ and had 
negative interactions with her boss. She took all of the pills 
of Seroquel that she had (found with 2 empty bottles of 
Seroquel, 100 mg tablets, 30 tablet fills, but unknown how much
was actually in each bottle). EMS arrived and patient was noted 
to have pinpoint pupils and BP 91/61 and heart rate of 130. EMS 
started IVF. She was given Narcan 2 mg without improvement in 
miosis. Initially she was confused, but became more unresponsive 
en route to the ED.

In the ED she was noted to have ronchorous breath sounds and 
copious secretions in mouth. She became apneic and was intubated 
(given etomidate and rocuronium). Sedated with fentanyl and 
midazolam. After intubation her HR was in the 160s and was in 
sustained SVT, so she was given 6 mg adenosine. ET tube was deep
on CXR, so was pulled back 3 cm. Toxicologist recommended 
supportive care with q1h EKG for QTc monitoring. Did not 
recommend bicarbonate as there were not QRS changes.

In the ED,  
- Initial Vitals:  
T 96.4, HR 134, BP 80/50, RR 14, 98% 4L NC 

- Exam:  
-Pinpoint pupils
-Regular respiration
-Secretions pooling in the airway

- Labs:  
VBG 7.31/52 -> 7.32/44

Utox negative
Serum TCA positive
Serum ASA, acetaminophen, EtOH negative

- Imaging:  
CXR  
1. ET tube closely approximates the right mainstem bronchus and 
should be 
retracted by 2-3 cm for appropriate positioning.  2. Mild 
pulmonary vascular congestion without overt edema. 

- Consults:  Toxicology, Respiratory therapy

- Interventions: In the ED the patient was intubated for airway 
protection. She received etomidate and rocuronium for 
intubation, sedated with fentanyl and midazolam. Received 1L LR.

 
Past Medical History:
Depression
 
Social History:
___
Family History:
Unable to obtain as patient is intubated and sedated.
 
Physical Exam:
ADMISSION
=========
VS: HR 85, BP 92/60, RR 16, 100% intubated
GENERAL: Intubated and sedated. 
HEENT: NCAT. Small reactive pupils. Sclera anicteric and without 
injection. 
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No 
murmurs/rubs/gallops.  
LUNGS: Mechanical breath sounds. No wheezes, rhonchi or rales.
ABDOMEN: Normal bowels sounds, soft, non distended, non-tender 
to deep palpation in all four quadrants.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+ bilaterally.  
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: Intubated and sedated. Normal reflexes. 

DISCHARGE
=========
AVSS
GENERAL: pleasant and calm, NAD.  
HEENT: NCAT. anicteric sclera, EOMI, no nystagmus.  
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No 
murmurs/rubs/gallops.  
LUNGS: CTA b/l with good air entry
ABDOMEN: Normal bowels sounds, soft, non distended, non-tender 
to deep palpation in all four quadrants.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+ bilaterally.  
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: grossly intact throughout. No tremor. 
 
Pertinent Results:
ADMISSION
=========
___ 10:47PM   ___ PTT-27.3 ___
___ 10:47PM   PLT COUNT-230
___ 10:47PM   NEUTS-45.1 ___ MONOS-6.6 EOS-1.2 
BASOS-0.7 IM ___ AbsNeut-2.65 AbsLymp-2.71 AbsMono-0.39 
AbsEos-0.07 AbsBaso-0.04
___ 10:47PM   WBC-5.9 RBC-4.11 HGB-12.1 HCT-36.5 MCV-89 
MCH-29.4 MCHC-33.2 RDW-13.1 RDWSD-42.7
___ 10:47PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-POS*
___ 10:47PM   ALBUMIN-4.2 CALCIUM-9.7 PHOSPHATE-3.9 
MAGNESIUM-2.0
___ 10:47PM   LIPASE-36
___ 10:47PM   ALT(SGPT)-19 AST(SGOT)-34 ALK PHOS-86 TOT 
BILI-0.2
___ 10:47PM   estGFR-Using this
___ 10:47PM   GLUCOSE-175* UREA N-13 CREAT-0.8 SODIUM-139 
POTASSIUM-3.9 CHLORIDE-102 TOTAL CO2-22 ANION GAP-15
___ 10:59PM   O2 SAT-82
___ 10:59PM   ___ PO2-53* PCO2-52* PH-7.31* TOTAL 
CO2-27 BASE XS-0
___ 11:15PM URINE  MUCOUS-RARE*
___ 11:15PM URINE  HYALINE-___ 11:15PM URINE  RBC-1 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 11:15PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-TR* KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 11:15PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 11:15PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 11:15PM URINE  HOURS-RANDOM
___ 11:56PM   O2 SAT-93
___ 11:56PM   TYPE-ART PO2-71* PCO2-44 PH-7.32* TOTAL 
CO2-24 BASE XS--3

DISCHARGE
=========
___ 05:40AM BLOOD WBC-8.0 RBC-3.62* Hgb-10.8* Hct-33.7* 
MCV-93 MCH-29.8 MCHC-32.0 RDW-13.5 RDWSD-46.6* Plt ___
___ 05:40AM BLOOD Glucose-126* UreaN-11 Creat-0.8 Na-143 
K-3.8 Cl-104 HCO3-23 AnGap-16

IMAGING/REPORTS
===============
___ CXR: 
Endotracheal tube closely approximate the right mainstem 
bronchus.  An enteric tube is seen coursing below the left 
hemidiaphragm with the side port projecting in the expected 
location of the stomach.  Lung volumes are low.  No focal 
consolidation is seen.  No large pleural effusion or 
pneumothorax.  Mild pulmonary vascular congestion without overt 
edema. 
  
IMPRESSION: 
1. ET tube closely approximates the right mainstem bronchus and 
should be 
retracted by 2-3 cm for appropriate positioning. 
2. Mild pulmonary vascular congestion without overt edema. 

 
Brief Hospital Course:
SUMMARY
=======
___ is a ___ year old woman with history who presented 
after an intentional quetiapine overdose, intubated for airway 
protection. She was weaned off sedation and extubated and her 
mental status continued to improve over time. She was monitored 
with serial EKGs and on telemetry and did not require any 
bicarbonate or other interventions. Her course was complicated 
by sinus tachycardia thought to be due to a combination of 
anticholerngic effects from quetiapine and dehydration from 
reduced PO intake. This had fully resolved prior to discharge to 
inpatient psychiatric unit. 

#Intentional Quetiapine overdose
#Depression
#Altered Mental Status
Presented after intentional overdose, suicide note found by 
daughter in the home, ___ attempt. Evaluated by toxicology who 
recommended supportive care and QTc monitoring. No indication 
for bicarbonate as she did not have QRS changes. QTc prolonged 
to as high as 581. QTc at the time of discharge was 420. 

#Sinus Tachycardia: 
Likely secondary to queitapine overdose although persistent as 
mental status improves. Likely also a component of hypovolemia 
given decreased intake due to mental status. She was maintained 
on a regular diet and we encouraged PO intake. Stable in high 
___ 100s at time of discharge. 

TRANSITIONAL ISSUES
===================
[] Please arrange PCP follow up upon discharge from inpatient 
psychiatry unit.
# CODE STATUS:  Full
# CONTACT: ___ ___ (daughter)

> 30 mins spent on discharge planning. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. QUEtiapine Fumarate 100 mg PO Frequency is Unknown 
2. Citalopram 40 mg PO DAILY 

 
Discharge Medications:
1.  RisperiDONE 1 mg PO QHS  
2. HELD- Citalopram 40 mg PO DAILY  This medication was held. Do 
not restart Citalopram until told to do so by a psychiatrist
3. HELD- QUEtiapine Fumarate 100 mg PO Frequency is Unknown  
This medication was held. Do not restart QUEtiapine Fumarate 
until told to do so by a psychiatrist

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: Intentional Seroquel Overdose

Secondary:
Depression
Sinus Tachycardia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  
It was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You took too much of your Seroquel and were so sleepy that you 
needed a breathing tube.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- Your breathing tube was removed when you woke up and you were 
seen by the psychiatry team who recommended an inpatient 
psychiatric admission to help get you on a safe antidepressant 
medication plan.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
-Please continue to take all of your medications and follow-up 
with your appointments as listed below.

We wish you the best!  

Sincerely,  
Your ___ Team   
 
Followup Instructions:
___